US08022205B2
3,5-difluoro-4-(4-methoxy-benzylamino)-benzonitrile
To acetonitrile solution (500 ml) of 3,4,5-trifluoro-benzonitrile (15.0 g, 95.5 mmol), N-ethyldiisopropylamine (33.3 ml, 191 mmol) and 4-methoxy-benzylamine (24.9 ml, 191 mmol) were added, followed by refluxing for 21 hours. The solvent was distilled off under reduced pressure, followed by dissolution in ethyl acetate (500 ml), which was washed with saturated aqueous sodium chloride solution (200 ml). After the organic layer was dried over sodium sulfate, the solvent was distilled off under reduced pressure. This was purified by silica gel column chromatography (dichloromethane), to obtain the desired compound (26.2 g, quant.).

reactant | 3,4,5-trifluoro-benzonitrile | 95.5 mmol, 15.0 g | FC=1C=C(C#N)C=C(C1F)F | C7H2F3N
reactant | N-ethyldiisopropylamine | 191 mmol, 33.3 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-methoxy-benzylamine | 191 mmol, 24.9 ml | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 3,5-difluoro-4-(4-methoxy-benzylamino)-benzonitrile | 26.2 g | FC=1C=C(C#N)C=C(C1NCC1=CC=C(C=C1)OC)F | C15H12F2N2O
